US09029399B2
Preparation of Intermediate 5-Bromo-2-chloro-benzo[b]thiophene (I-20a)
n-Butyl lithium (0.64 ml, 1.2 mmol) was added drop wise to a solution of diisopropyl amine (0.25 mL, 1.5 mmol) in dry THF at −78° C. under nitrogen atmosphere over a period of 5 minutes. The reaction mixture was stirred at −20° C. for 30 minutes. To this was added 5-bromo-benzo[b]thiophene (200 mg, 0.938 mmol) in dry THF at −78° C., continued stirring for a further 30 minutes at −78° C., followed by the addition of N-chlorosuccinamide (225 mg, 1.68 mmol) in dry THF at −78° C. The resulting mixture was stirred at room temperature for 2 hours. The reaction was monitored by TLC (100% hexane). The reaction mixture was partitioned between ethyl acetate and saturated ammonium chloride. The organic layer was dried over sodium sulfate and concentrated to afford the crude product. Purification by column chromatography on silica gel (100% hexane) afforded 70 mg of the product (30% yield).

reactant | n-Butyl lithium | 1.2 mmol, 0.64 ml | C(CCC)[Li]
reactant | diisopropyl amine | 1.5 mmol, 0.25 mL | C(C)(C)NC(C)C | C6H15N
reactant | 5-bromo-benzo[b]thiophene | 0.938 mmol, 200 mg | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
reactant | N-chlorosuccinamide | 1.68 mmol, 225 mg | ClNC(CCC(=O)N)=O | C4H7ClN2O2
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-Bromo-2-chloro-benzo[b]thiophene | 70 mg, 30% yield | BrC1=CC2=C(SC(=C2)Cl)C=C1 | C8H4BrClS
